US05231113
Ethyl 4-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthoyloxy)benzoate
n-Tetradecyl 4-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthoyloxy)benzoate-Using n-tetradecyl 4-hydroxybenzoate, the title compound was synthesized as a colorless oil. PMR (CDCl3): δ 0.83-0.94 (3H, m), 1.15-1.50 (34H, m), 1.70-1.85 (6H, m), 4.34 (2H, t, J~6.7 Hz), 7.29 (2H, d, J~8.7 Hz), 7.46 (1H, d, J~8.4 Hz), 7.95 (1H, dd, J~8.4 Hz, 1.8 Hz), 8.14 (2H, d, J~8.7 Hz), 8.16 (1H, d, J~1.8 Hz).

reactant | n-Tetradecyl 4-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthoyloxy)benzoate | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(=O)OC1=CC=C(C(=O)OCCCCCCCCCCCCCC)C=C1)C | C36H52O4
reactant | n-tetradecyl 4-hydroxybenzoate | OC1=CC=C(C(=O)OCCCCCCCCCCCCCC)C=C1 | C21H34O3
product | Ethyl 4-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthoyloxy)benzoate | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(=O)OC1=CC=C(C(=O)OCC)C=C1)C | C24H28O4
